US07727988B2
5-(6-methyl-2-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E32)
A solution of 1-(4-chloro-butyl)-5-(6-methyl-pyridin-2-yl)-1H-pyrimidine-2,4-dione (Prep51, 95 mg, 0.32 mmol), (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane (Prep4, 74 mg, 0.32 mmol), and TEA (98 μl, 1 mmol) in absolute EtOH (4 mL) was refluxed for 48 h. Then dry DIPEA (83.6 mg, 0.64 mmol) was added and the mixture placed in a microwave oven and irradiated at 125° C. for 4 hours. The solvent was removed under vacuum and the residue was partitioned between water and ethyl acetate. The organic phase was dried (Na2SO4), filtered and evaporated. The residue was dissolved in DCM and treated with PS-isocyanate resin (250 mg) under stirring for 2 h. After filtration and evaporation of the solvent, the crude was purified by flash chromatography with DCM-MeOH—NH4OH (98-2-0.2) to give the title compound as free base.

reactant | 1-(4-chloro-butyl)-5-(6-methyl-pyridin-2-yl)-1H-pyrimidine-2,4-dione | 0.32 mmol, 95 mg | ClCCCCN1C(NC(C(=C1)C1=NC(=CC=C1)C)=O)=O | C14H16ClN3O2
reactant | (1S,5R)-1-(4-trifluoromethyl-phenyl)-3-aza-bicyclo[3.1.0]hexane | 0.32 mmol, 74 mg | FC(C1=CC=C(C=C1)[C@]12CNC[C@@H]2C1)(F)F | C12H12F3N
reactant | DIPEA | 0.64 mmol, 83.6 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 4 mL | CCO | C2H6O
product | 5-(6-methyl-2-pyridinyl)-1-(4-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}butyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | Cl.Cl.CC1=CC=CC(=N1)C=1C(NC(N(C1)CCCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C26H27F3N4O2.2ClH/c1-17-5-4-6-22(30-17)21-15-33(24(35)31-23(21)34)12-3-2-11-32-14-20-13-25(20,16-32)18-7-9-19(10-8-18)26(27,28)29;;/h4-10,15,20H,2-3,11-14,16H2,1H3,(H,31,34,35);2*1H/t20-,25+;;/m0../s1
